US04435585
103.3 g of p-methoxy-propiophenone diethyl ketal are treated with 1.1 g of p-toluenesulphonic acid and heated in a distillation apparatus to 140° C. (oil bath temperature). In so doing, the ethanol formed is distilled off continuously at atmospheric pressure. 20 g of ethanol are distilled off within 31/2 hours. Subsequently, the mixture remaining is distilled in a high vacuum over a 15 cm column. There are obtained 62.2 g of 1-(p-methoxyphenyl)-1-ethoxy-1-propene (yield: 74.8% of theory). B.p.=78°-79° C. 0.3 mmHg; nD20 =1.5315: d420 =1.0175.

reactant | p-methoxy-propiophenone diethyl ketal | 103.3 g | C(C)OC(CC)(C1=CC=C(C=C1)OC)OCC | C14H22O3
reactant | p-toluenesulphonic acid | 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(p-methoxyphenyl)-1-ethoxy-1-propene | 62.2 g, yield: 74.8% | COC1=CC=C(C=C1)C(=CC)OCC | C12H16O2
